* eeschema netlist version 1.1 (spice format) creation date: tuesday 16 april 2013 10:43:13 am ist
.include npn.lib

V_u4 0 7 0
V_u3 4 1 0
V_u2 2 3 0
* Plotting option vplot8_1
r1  5 3 4700
r2  4 0 3300
v1  5 0 10v
q1 2 7 1 npn

.dc  v1 0e-00 10e-00 5e-03

* Control Statements 
.control
run
plot i(V_u4)
plot i(V_u3)
plot i(V_u2)
plot v(2) v(1) 
.endc
.end
